US04758586
Ethyl 5-(1-Benzylindol-3-yl)-2,4-Pentadienoate
To a suspension of 1.08 g (60% reagent, 27 mmol) of sodium hydride in 20 ml of tetrahydrofuran (THF), stirred in an ice bath, was added dropwise 6 ml (6.7 g, 27 mmol) of triethyl 4-phosphonocrotonate. The resulting mixture was stirred for an additional 1 hour in the cooling bath and a solution of 4.2 g (18 mmol) of 1-benzylindol-3-carboxaldehyde in 25 ml of water. This mixture was transferred to a separatory funnel and the layers were separated. The aqueous layer was extracted with two 50 ml portions of ethyl acetate. The combined organic layer was washed with two 25 ml portions of brine, dried (magnesium sulfate) and concentrated on a rotary evaporator to give an oil. Purification on a dry column (25% ethyl acetate in hexane) followed by crystallization (acetone-ether) gave 3.7 g of product as orange crystals, m.p. 110-112. MS (EI): 331 (M+), 240 (M+--C7H7), 167 (M+--C7H7 --CO2C2H5). NMR spectrum (CDCl3) shows a triplet centered at δ1.26 (J=7 Hz), a singlet at δ5.21, a doublet centered at δ5.8 which is the signal of the olefinic proton adjacent to the carbonyl group. The remainder of the proton signals cluster around 7.25 ppm.

reactant | sodium hydride | 27 mmol, 1.08 g | [H-].[Na+]
reactant | triethyl 4-phosphonocrotonate | 27 mmol, 6 ml, 6.7 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | 1-benzylindol-3-carboxaldehyde | 18 mmol, 4.2 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=O | C16H13NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | Ethyl 5-(1-Benzylindol-3-yl)-2,4-Pentadienoate | 3.7 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=CC=CC(=O)OCC | C22H21NO2
